US07495007B2
To a solution of 3,4-difluoro-phenol (5 g, 38.4 mmol) in acetone (50 mL) was added potassium carbonate (54 g, 38.4 mmol) and 2-iodo-propane. The reaction mixture was heated at refluxing for 24 h. The crude was cooled down and filtered through a short pad of celite. The filtrate was concentrated and the residue was purified by chromatography (EtOAc:Hexanes=1:9) to give 1,2-difluoro-4-isopropoxy-benzene as colorless oil (Yield 6.12 g, 92.3%).

reactant | 3,4-difluoro-phenol | 38.4 mmol, 5 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | potassium carbonate | 38.4 mmol, 54 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodo-propane | IC(C)C | C3H7I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1,2-difluoro-4-isopropoxy-benzene | Yield 6.12 g, 92.3% | FC1=C(C=C(C=C1)OC(C)C)F | C9H10F2O
